US06596750B2
3,5-Bis(5-chloro-2-hydroxyphenyl)-1-(4-dimethylaminobenzyl)-1H-[1,2,4]triazole
3.0 g of 6-chloro-2-(5-chloro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one are boiled under reflux for 4 h with 2.2 g of 4-dimethylaminobenzylhydrazine hydrochloride and 3 ml of triethylamine in 50 ml of ethanol. The crystals precipitating on cooling are washed with ethanol. After drying, 3,5-bis(5-chloro-2-hydroxyphenyl)-1-(4-dimethylaminobenzyl)-1H-[1,2,4]triazole remains as colorless crystals of m.p. 205-207 C.

reactant | 6-chloro-2-(5-chloro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 3.0 g | ClC=1C=CC2=C(C(N=C(O2)C2=C(C=CC(=C2)Cl)O)=O)C1 | C14H7Cl2NO3
reactant | 4-dimethylaminobenzylhydrazine hydrochloride | 2.2 g | Cl.CN(C1=CC=C(CNN)C=C1)C
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5-Bis(5-chloro-2-hydroxyphenyl)-1-(4-dimethylaminobenzyl)-1H-[1,2,4]triazole | ClC=1C=CC(=C(C1)C1=NN(C(=N1)C1=C(C=CC(=C1)Cl)O)CC1=CC=C(C=C1)N(C)C)O | C23H20Cl2N4O2
